US09126998B2
2,6-Dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylic acid
5.07 g (12.87 mmol) of ethyl 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylate Example 265A were dissolved in 275 ml of THF/methanol (5/1), 64.4 ml of 1 N aqueous lithium hydroxide solution were added and the mixture was stirred at 40° C. for 3.5 h. At 0° C., the mixture was acidified to about pH 4 with 6 N aqueous hydrochloric acid and concentrated. The solid formed was filtered off, washed with water and dried under reduced pressure. This gave 4.77 g (98% of theory; purity about 93%) of the title compound.

reactant | ethyl 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylate | 12.87 mmol, 5.07 g | CC=1N=C2N(C=C(C=C2OCC2=C(C(=CC=C2F)F)F)C)C1C(=O)OCC | C19H17F3N2O3
reactant | lithium hydroxide | 1 N, 64.4 ml | [OH-].[Li+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | THF methanol | 275 ml | C1CCOC1.CO
product | 2,6-Dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylic acid | CC=1N=C2N(C=C(C=C2OCC2=C(C(=CC=C2F)F)F)C)C1C(=O)O | C17H13F3N2O3
